US05095137
Cis-2-[[N-[2-oxoethyl]-N-phenylamino]carbonyl]-cyclohexanecarboxylic acid
A solution of 1.32 g (33 mmoles) of NaOH in 32 ml of methanol, is added under stirring at a temperature of 10° C., with 3.19 g (10 mmoles), of cis-2-[[N-[2-methoxy-2-oxoethyl]-N-phenylamino]carbonyl]-cyclohexanecarbo xylic acid (prepared from the anhydride of the cis-1,2-cychlohexanbicarboxylic acid and methyl N-phenyl-aminoacetate according to a process like that disclosed in the example 2), and then with 0.764 g (11 mmoles) of hydroxylamine hydrochloride. The resulting suspension is maintained under stirring at 15° C. for 6 hours, then at rest for the night.

reactant | NaOH | 33 mmoles, 1.32 g | [OH-].[Na+]
reactant | cis-2-[[N-[2-methoxy-2-oxoethyl]-N-phenylamino]carbonyl]-cyclohexanecarbo xylic acid | COC(CN(C1=CC=CC=C1)C(=O)[C@@H]1[C@@H](CCCC1)C(=O)O)=O | C17H21NO5
reactant | methyl N-phenyl-aminoacetate | C1(=CC=CC=C1)NCC(=O)OC | C9H11NO2
reactant | hydroxylamine hydrochloride | 11 mmoles, 0.764 g | Cl.NO
solvent | methanol | 32 ml | CO | CH4O
product | Cis-2-[[N-[2-oxoethyl]-N-phenylamino]carbonyl]-cyclohexanecarboxylic acid | O=CCN(C1=CC=CC=C1)C(=O)[C@@H]1[C@@H](CCCC1)C(=O)O | C16H19NO4
